US09085540B2
To a mixture of 5-(3-{[(2E)-4-chlorobuta-2-enoyl]amino}phenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (80 mg) and N,N-dimethylformamide (800 μL) were added diisopropylethylamine (25 μL) and morpholine (11 μL), followed by stirring at room temperature overnight. Water was added thereto, and the precipitated solid was collected by filtration and purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1). Diisopropyl ether was added thereto and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-{[(2E)-4-(morpholin-4-yl)but-2-enoyl]amino}phenoxy)pyrazine-2-carboxamide (27 mg) as a solid.

reactant | 5-(3-{[(2E)-4-chlorobuta-2-enoyl]amino}phenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 80 mg | ClC/C=C/C(=O)NC=1C=C(OC=2N=C(C(=NC2C(C)C)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C29H34ClN7O3
reactant | N,N-dimethylformamide | 800 μL | CN(C=O)C | C3H7NO
reactant | diisopropylethylamine | 25 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 11 μL | N1CCOCC1 | C4H9NO
solvent | Water | O | H2O
product | 6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-{[(2E)-4-(morpholin-4-yl)but-2-enoyl]amino}phenoxy)pyrazine-2-carboxamide | 27 mg | C(C)(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C)OC1=CC(=CC=C1)NC(\C=C\CN1CCOCC1)=O | C33H42N8O4
